** sch_path: /foss/designs/CHIP-PLL/charge_pump/charge_pump_op_tb.sch
**.subckt charge_pump_op_tb
Vvp vp 0 1.2
C1 vout 0 5p
Vup2 up 0 1
Vdn2 dn 0 1
Vup1 vout 0 1.0
x1 vp up vout dn 0 charge_pump_cell
**** begin user architecture code


.temp -40



 .lib cornerMOSlv.lib mos_tt
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/resistors_mod.lib

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/charge_pump_cell.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/charge_pump/charge_pump_cell.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/charge_pump_cell.sch

.subckt charge_pump_cell vp UP vout DN gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
X0 gd.t20 a_2167_4079.t5 a_2099_4115.t1 gd.t4 sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X1 vp.t22 a_2167_5620.t2 a_3175_5656.t0 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=0.6u
X2 gd.t26 a_1025_4370.t0 gd.t25 rppd l=1.7u w=1u
X3 gd.t18 a_1731_4370.t0 gd.t17 rppd l=1.7u w=1u
X4 vp.t17 vbias_0.iref.t1 vbias_0.iref.t2 vp.t0 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X5 vp.t15 curr_source$1_0.iref.t0 curr_source$1_0.iref.t1 vp.t0 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X6 vp.t3 a_2167_5620.t6 a_2287_5656.t0 vp.t0 sg13_lv_pmos ad=0.408p pd=3.02769u as=0.228p ps=1.55077u w=1.2u l=0.6u
X7 a_3941_5090.t0 UP.t0 gd.t31 gd.t30 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X8 a_2167_4079.t2 vbias_0.vbias.t7 a_2099_4115.t2 gd.t27 sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X9 gd.t33 a_2167_4079.t7 a_2099_4115.t3 gd.t27 sg13_lv_nmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X10 a_1025_4370.t1 a_937_4884.t0 vbias_0.iref.t0 gd.t9 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X11 gd.t11 gd.t8 gd.t10 gd.t9 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X12 a_1731_4370.t1 a_1643_4884.t1 curr_source$1_0.iref.t2 gd.t13 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X13 gd.t15 gd.t12 gd.t14 gd.t13 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X14 vp.t6 a_2167_5620.t4 a_3175_5656.t3 vp.t0 sg13_lv_pmos ad=0.228p pd=1.58u as=0.228p ps=1.58u w=1.2u l=0.6u
X15 vp.t20 UP.t1 a_3941_5090.t1 vp.t0 sg13_lv_pmos ad=0.51p pd=3.68u as=0.285p ps=1.88u w=1.5u l=0.8u
X16 vbias_0.iref.t3 a_639_4696.t1 vp.t2 gd.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X17 curr_source$1_0.iref.t3 a_1345_4696.t1 vp.t5 gd.t21 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X18 vp.t23 a_2167_5620.t8 a_2287_5656.t1 vp.t0 sg13_lv_pmos ad=0.228p pd=1.55077u as=0.228p ps=1.55077u w=1.2u l=0.6u
X19 vout.t0 a_3941_5090.t3 a_3371_5126.t0 vp.t0 sg13_lv_pmos ad=0.285p pd=1.88u as=0.51p ps=3.68u w=1.5u l=0.6u
X20 vout.t1 DN.t0 a_3573_4589.t1 gd.t36 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X21 a_639_4696.t0 vp.t13 vp.t14 gd.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X22 a_1345_4696.t0 vp.t8 vp.t9 gd.t21 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X23 vp.t12 vp.t10 vp.t11 vp.t0 sg13_lv_pmos ad=0.4675p pd=3.43u as=0 ps=0 w=1.375u l=0.6u
X24 a_639_4696.t2 a_639_4696.t1 gd.t1 gd.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X25 a_1345_4696.t2 a_1345_4696.t1 gd.t22 gd.t21 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X26 a_3175_5656.t0 a_2167_5620.t3 vp.t6 vp.t0 sg13_lv_pmos ad=0.228p pd=1.58u as=0.228p ps=1.58u w=1.2u l=0.6u
X27 gd.t7 gd.t5 gd.t6 gd.t2 sg13_lv_nmos ad=0.6324p pd=4.4u as=0 ps=0 w=1.86u l=0.6u
X28 a_3371_5126.t2 vbias_0.vbias.t8 a_3175_5656.t2 vp.t0 sg13_lv_pmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
X29 a_341_4726.t0 vbias_0.iref.t5 vp.t18 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X30 a_2287_5656.t0 a_2167_5620.t7 vp.t23 vp.t0 sg13_lv_pmos ad=0.228p pd=1.55077u as=0.228p ps=1.55077u w=1.2u l=0.6u
X31 a_2287_5656.t2 vbias_0.vbias.t11 a_2167_5620.t0 vp.t0 sg13_lv_pmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X32 a_937_4884.t1 a_937_4884.t0 gd.t35 gd.t9 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X33 a_1643_4884.t2 a_1643_4884.t1 gd.t28 gd.t13 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X34 vbias_0.vbias.t1 a_341_4726.t1 gd.t29 rppd l=1.7u w=1u
X35 a_3573_4589.t0 vbias_0.vbias.t2 a_3385_4115.t0 gd.t23 sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X36 a_3175_5656.t3 a_2167_5620.t5 vp.t24 vp.t0 sg13_lv_pmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=0.6u
X37 a_3371_5126.t1 vbias_0.vbias.t10 a_3175_5656.t1 vp.t0 sg13_lv_pmos ad=0.304p pd=1.98u as=0.544p ps=3.88u w=1.6u l=0.6u
X38 a_2099_4115.t0 vbias_0.vbias.t6 a_2167_4079.t2 gd.t24 sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X39 gd.t34 a_2167_4079.t3 a_3385_4115.t1 gd.t23 sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X40 a_2287_5656.t1 a_2167_5620.t9 vp.t7 vp.t0 sg13_lv_pmos ad=0.228p pd=1.55077u as=0.408p ps=3.02769u w=1.2u l=0.6u
X41 a_2099_4115.t1 a_2167_4079.t6 gd.t33 gd.t24 sg13_lv_nmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X42 a_2977_4589.t1 vbias_0.vbias.t4 a_2167_5620.t1 gd.t32 sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X43 a_2167_4079.t1 curr_source$1_0.iref.t4 vp.t4 vp.t0 sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X44 a_937_4884.t2 vbias_0.iref.t4 vp.t16 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X45 a_1643_4884.t0 curr_source$1_0.iref.t5 vp.t1 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X46 a_3941_5090.t1 UP.t2 vp.t19 vp.t0 sg13_lv_pmos ad=0.285p pd=1.88u as=0.51p ps=3.68u w=1.5u l=0.8u
X47 a_43_4726.t2 a_43_4726.t1 gd.t3 gd.t2 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X48 a_3275_4115.t0 vbias_0.vbias.t3 a_2977_4589.t0 gd.t16 sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X49 a_3275_4115.t1 a_2167_4079.t4 gd.t38 gd.t16 sg13_lv_nmos ad=0.544p pd=3.88u as=0.544p ps=3.88u w=1.6u l=0.6u
X50 a_3371_5126.t3 a_3941_5090.t2 vout.t0 vp.t0 sg13_lv_pmos ad=0.51p pd=3.68u as=0.285p ps=1.88u w=1.5u l=0.6u
X51 a_43_4726.t0 a_341_4726.t2 vbias_0.vbias.t0 gd.t19 sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
X52 a_3175_5656.t2 vbias_0.vbias.t9 a_3371_5126.t1 vp.t0 sg13_lv_pmos ad=0.304p pd=1.98u as=0.304p ps=1.98u w=1.6u l=0.6u
X53 a_2167_4079.t0 vbias_0.vbias.t5 a_2099_4115.t0 gd.t4 sg13_lv_nmos ad=0.544p pd=3.88u as=0.304p ps=1.98u w=1.6u l=0.6u
.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
X0 a_827_n219.t0 a_739_295.t0 iref.t1 gd.t6 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X1 gd.t12 gd.t9 gd.t11 gd.t10 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X2 iref.t0 a_441_107.t0 vp.t0 gd.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X3 gd.t8 a_827_n219.t1 gd.t7 rppd l=1.7u w=1u
X4 a_441_107.t2 vp.t1 vp.t2 gd.t3 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X5 vp.t4 iref.t2 iref.t3 vp.t3 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X6 a_441_107.t1 a_441_107.t0 gd.t2 gd.t1 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X7 a_739_295.t1 a_739_295.t0 gd.t5 gd.t4 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X8 a_739_295.t2 iref.t4 vp.t5 vp.t3 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
R0 iref.n1 iref.n0 29.9973
R1 iref.n1 iref.t4 24.0005
R2 iref.n2 iref.t2 15.0005
R3 iref.n3 iref.n2 9.0005
R4 iref.n0 iref.t0 6.20378
R5 iref.n0 iref.t1 5.60148
R6 iref.n2 iref.t3 5.01607
R7 iref.n3 iref.n1 0.6605
R8 iref iref.n3 0.4295
R9 vp.n5 vp.n4 18.7081
R10 vp.t5 vp.n2 17.0005
R11 vp.n7 vp.t5 17.0005
R12 vp.t5 vp.n6 17.0005
R13 vp.n9 vp.t4 17.0005
R14 vp.t4 vp.n3 17.0005
R15 vp.n5 vp.t1 15.0005
R16 vp.n1 vp.n0 8.5005
R17 vp.t4 vp.n8 8.48605
R18 vp.n4 vp.t0 6.61647
R19 vp.n4 vp.t2 5.56245
R20 vp.n13 vp.n12 2.80799
R21 vp.n12 vp.t3 2.126
R22 vp.n11 vp.n10 1.79696
R23 vp.t3 vp.n11 1.70305
R24 vp.n6 vp.n5 0.591097
R25 vp.n10 vp.n9 0.492627
R26 vp.n13 vp.n0 0.126463
R27 vp vp.n13 0.0782853
R28 vp.n7 vp.n3 0.0464701
R29 vp.n8 vp.n7 0.0448652
R30 vp.n10 vp.n0 0.04175
R31 vp.n9 vp.n2 0.0333358
R32 vp.n8 vp.n6 0.03091
R33 vp.n3 vp.n2 0.0284104
R34 vp.n11 vp.n1 0.00315277
R35 vp.n12 vp.n1 0.00175
R36 gd.t7 gd.t10 1242.8
R37 gd.t0 gd.t4 1102.88
R38 gd.n9 gd.t7 1037.04
R39 gd.t1 gd.t6 855.967
R40 gd.t10 gd.t1 246.915
R41 gd.t4 gd.t3 164.609
R42 gd.t6 gd.t0 139.918
R43 gd.n3 gd.t12 17.3443
R44 gd.n3 gd.t11 17.3305
R45 gd.n12 gd.n11 17.0005
R46 gd.n4 gd.t9 15.0005
R47 gd.n13 gd.n12 8.59439
R48 gd.n9 gd.n8 8.501
R49 gd.n9 gd.n7 8.501
R50 gd.n9 gd.n6 8.501
R51 gd.n11 gd.n2 8.5005
R52 gd.n11 gd.n5 8.5005
R53 gd.n3 gd.t5 6.84299
R54 gd.n0 gd.t2 6.61656
R55 gd.n10 gd.n9 5.47466
R56 gd.n0 gd.t8 5.0005
R57 gd.n15 gd.n2 4.23547
R58 gd.n13 gd.n5 4.23547
R59 gd.n11 gd.n10 4.10551
R60 gd.n16 gd.n1 2.08773
R61 gd.n14 gd.n4 1.4781
R62 gd.n17 gd.n0 0.590078
R63 gd.n4 gd.n3 0.240596
R64 gd.n16 gd.n15 0.18804
R65 gd.n17 gd.n16 0.0992176
R66 gd.n10 gd.n1 0.0842818
R67 gd.n15 gd.n14 0.0815528
R68 gd.n14 gd.n13 0.0448861
R69 gd gd.n17 0.0115
R70 gd.n12 gd.n6 0.001
R71 gd.n7 gd.n5 0.001
R72 gd.n8 gd.n2 0.001
R73 gd.n8 gd.n1 0.001
R74 gd.n7 gd.n2 0.001
R75 gd.n6 gd.n5 0.001
R76 a_827_n219.t1 a_827_n219.t0 47.9805
R77 a_441_107.t1 a_441_107.n0 6.33368
R78 a_441_107.n0 a_441_107.t0 15.0005
R79 a_441_107.n0 a_441_107.t2 43.5164
R80 a_739_295.t2 a_739_295.n0 6.27106
R81 a_739_295.n0 a_739_295.t1 4.72314
R82 a_739_295.n0 a_739_295.t0 33.2091
C0 vp iref 0.91237f
C1 iref gd 0.84445f
C2 vp gd 0.49146f
C3 a_487_n219# gd 0.41112f $ **FLOATING
C4 a_739_295.t2 gd 0.03772f
C5 a_739_295.n0 gd 0.05649f
C6 a_739_295.t0 gd 0.16187f
C7 a_739_295.t1 gd 0.04392f
C8 a_441_107.t1 gd 0.04738f
C9 a_441_107.t0 gd 0.18324f
C10 a_441_107.n0 gd 0.11562f
C11 a_441_107.t2 gd 0.13362f
C12 a_827_n219.t1 gd 0.10863f
C13 a_827_n219.t0 gd 0.08579f
C14 vp.n0 gd 0.01869f
C15 vp.n1 gd 0.05065f
C16 vp.t0 gd 0.02267f
C17 vp.t2 gd 0.0207f
C18 vp.n4 gd 0.03248f
C19 vp.t1 gd 0.04073f
C20 vp.n5 gd 0.01441f
C21 vp.n6 gd 0.01798f
C22 vp.t5 gd 0.02484f
C23 vp.n7 gd 0.01373f
C24 vp.t4 gd 0.02898f
C25 vp.n9 gd 0.01319f
C26 vp.n10 gd 0.0616f
C27 vp.n11 gd 0.05145f
C28 vp.t3 gd 0.73294f
C29 vp.n12 gd 0.05079f
C30 vp.n13 gd 0.01454f
C31 iref.t1 gd 0.09378f
C32 iref.t0 gd 0.08252f
C33 iref.n0 gd 0.22076f
C34 iref.t4 gd 0.21652f
C35 iref.n1 gd 0.24192f
C36 iref.t2 gd 0.20877f
C37 iref.t3 gd 0.11838f
C38 iref.n2 gd 0.07898f
C39 iref.n3 gd 0.05684f
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
X0 a_2101_2290.t2 a_2101_2290.t1 gd.t9 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X1 a_1505_2320.t2 a_1505_2320.t1 gd.t8 gd.t7 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X2 vbias.t0 a_1803_2320.t1 gd.t3 rppd l=1.7u w=1u
X3 gd.t1 a_2487_1964.t0 gd.t0 rppd l=1.7u w=1u
X4 a_2399_2478.t2 a_2399_2478.t1 gd.t5 gd.t4 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X5 a_2399_2478.t0 iref.t4 vp.t2 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X6 gd.t12 gd.t10 gd.t11 gd.t4 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X7 a_2487_1964.t1 a_2399_2478.t1 iref.t2 gd.t4 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X8 a_1803_2320.t0 iref.t5 vp.t3 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X9 iref.t3 a_2101_2290.t1 vp.t6 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X10 a_2101_2290.t0 vp.t4 vp.t5 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X11 vp.t1 iref.t0 iref.t1 vp.t0 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X12 a_1505_2320.t0 a_1803_2320.t2 vbias.t1 gd.t6 sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
R0 vbias.n1 vbias.n0 9.32432
R1 vbias.n0 vbias.t0 5.0005
R2 vbias.n0 vbias.t1 4.4691
R3 vbias.n1 vbias 0.0841
R4 vbias vbias.n1 0.082061
R5 iref.n1 iref.n0 29.9973
R6 iref iref.t5 24.2293
R7 iref.n1 iref.t4 24.0005
R8 iref.n2 iref.t0 15.0005
R9 iref.n3 iref.n2 9.0005
R10 iref.n0 iref.t3 6.20378
R11 iref.n0 iref.t2 5.60148
R12 iref.n2 iref.t1 5.01607
R13 iref.n3 iref.n1 0.6605
R14 iref iref.n3 0.4295
R15 vp.n3 vp.n2 18.7081
R16 vp.t2 vp.n0 17.0005
R17 vp.n5 vp.t2 17.0005
R18 vp.t2 vp.n4 17.0005
R19 vp.n7 vp.t1 17.0005
R20 vp.t1 vp.n1 17.0005
R21 vp.n3 vp.t4 15.0005
R22 vp.t1 vp.n6 8.48605
R23 vp.n2 vp.t6 6.61647
R24 vp.n10 vp.t3 6.59844
R25 vp.n2 vp.t5 5.56245
R26 vp.n10 vp.n9 0.944834
R27 vp.n9 vp.n8 0.934376
R28 vp.n4 vp.n3 0.591097
R29 vp.n8 vp.n7 0.55471
R30 vp.n9 vp.t0 0.472722
R31 vp vp.n10 0.202852
R32 vp vp.n8 0.178546
R33 vp.n5 vp.n1 0.0464701
R34 vp.n6 vp.n5 0.0448652
R35 vp.n7 vp.n0 0.0333358
R36 vp.n6 vp.n4 0.03091
R37 vp.n1 vp.n0 0.0284104
R38 gd.n7 gd.t6 144.107
R39 gd.t3 gd.n7 120.01
R40 gd.n4 gd.t4 111.978
R41 gd.n5 gd.t0 99.9294
R42 gd.n10 gd.t7 92.3664
R43 gd.t2 gd.n5 91.8973
R44 gd.n6 gd.t2 60.2388
R45 gd.t7 gd.n8 59.7687
R46 gd.t0 gd.n4 51.7366
R47 gd.n2 gd.t8 43.1628
R48 gd.t4 gd.n3 40.1584
R49 gd.n8 gd.t3 31.6563
R50 gd.n11 gd.t12 17.3443
R51 gd.n11 gd.t11 17.3305
R52 gd.n12 gd.t10 15.0005
R53 gd.t6 gd.n6 8.02992
R54 gd.n11 gd.t5 6.84299
R55 gd.n0 gd.t9 6.61656
R56 gd.n0 gd.t1 5.0005
R57 gd.n10 gd.n9 4.23616
R58 gd.n13 gd.n3 2.88238
R59 gd.n13 gd.n12 1.4781
R60 gd.n15 gd.n14 1.35925
R61 gd.n16 gd.n15 0.986512
R62 gd.n1 gd.n0 0.590078
R63 gd.n15 gd.n8 0.471542
R64 gd.n15 gd.n7 0.471542
R65 gd.n15 gd.n5 0.471542
R66 gd.n15 gd.n4 0.471542
R67 gd.n16 gd.n2 0.2656
R68 gd gd.n16 0.259151
R69 gd.n12 gd.n11 0.240596
R70 gd.n14 gd.n13 0.20352
R71 gd.n14 gd.n1 0.159421
R72 gd.n9 gd 0.0473445
R73 gd.n9 gd.n2 0.043426
R74 gd gd.n1 0.0115
R75 gd.n15 gd.n3 0.0011742
R76 gd.n15 gd.n6 0.00108228
R77 gd.n15 gd.n10 0.001
R78 a_2487_1964.t0 a_2487_1964.t1 47.9805
R79 a_2101_2290.t2 a_2101_2290.n0 6.33368
R80 a_2101_2290.n0 a_2101_2290.t1 15.0005
R81 a_2101_2290.n0 a_2101_2290.t0 43.5164
R82 a_1505_2320.t2 a_1505_2320.n0 6.37762
R83 a_1505_2320.n0 a_1505_2320.t1 15.0005
R84 a_1505_2320.n0 a_1505_2320.t0 21.4787
R85 a_2399_2478.t0 a_2399_2478.n0 6.27106
R86 a_2399_2478.n0 a_2399_2478.t2 4.72314
R87 a_2399_2478.n0 a_2399_2478.t1 33.2091
R88 a_1803_2320.t1 a_1803_2320.t2 20.608
R89 a_1803_2320.t2 a_1803_2320.t0 21.5698
C0 vp vbias 0.01147f
C1 a_1501_1964# vbias 0.12714f
C2 vp iref 1.2373f
C3 vbias gd 0.5913f
C4 iref gd 0.85682f
C5 vp gd 0.58607f
C6 a_2147_1964# gd 0.41503f $ **FLOATING
C7 a_1501_1964# gd 0.31268f $ **FLOATING
C8 a_1803_2320.t1 gd 0.14019f
C9 a_1803_2320.t2 gd 0.46818f
C10 a_1803_2320.t0 gd 0.11537f
C11 a_2399_2478.t0 gd 0.03774f
C12 a_2399_2478.n0 gd 0.05652f
C13 a_2399_2478.t1 gd 0.16195f
C14 a_2399_2478.t2 gd 0.04394f
C15 a_1505_2320.t2 gd 0.0947f
C16 a_1505_2320.t1 gd 0.1724f
C17 a_1505_2320.n0 gd 0.13532f
C18 a_1505_2320.t0 gd 0.43946f
C19 a_2101_2290.t2 gd 0.05244f
C20 a_2101_2290.t1 gd 0.2028f
C21 a_2101_2290.n0 gd 0.12796f
C22 a_2101_2290.t0 gd 0.14789f
C23 a_2487_1964.t0 gd 0.11054f
C24 a_2487_1964.t1 gd 0.08729f
C25 vp.t6 gd 0.02264f
C26 vp.t5 gd 0.02067f
C27 vp.n2 gd 0.03244f
C28 vp.t4 gd 0.04068f
C29 vp.n3 gd 0.01439f
C30 vp.n4 gd 0.01796f
C31 vp.t2 gd 0.02481f
C32 vp.n5 gd 0.01372f
C33 vp.t1 gd 0.02894f
C34 vp.n7 gd 0.02148f
C35 vp.n8 gd 0.07575f
C36 vp.t0 gd 1.15457f
C37 vp.n9 gd 0.30155f
C38 vp.t3 gd 0.02749f
C39 vp.n10 gd 0.10277f
C40 iref.t2 gd 0.11024f
C41 iref.t3 gd 0.09701f
C42 iref.n0 gd 0.25952f
C43 iref.t4 gd 0.25454f
C44 iref.n1 gd 0.28439f
C45 iref.t0 gd 0.24542f
C46 iref.t1 gd 0.13916f
C47 iref.n2 gd 0.09285f
C48 iref.n3 gd 0.06682f
C49 iref.t5 gd 0.25286f
C50 vbias.t1 gd 0.37541f
C51 vbias.t0 gd 0.09555f
C52 vbias.n0 gd 0.21642f
C53 vbias.n1 gd 0.01024f
.ends

.end
.param rsh_rppd = 509
.control
.options itl1=200 itl2=100 gmin=1e-9
save v(vout) v(x1.vbias_0.vbias)
op
print v(vout)
print v(x1.vbias_0.vbias)
print @n.x1.x43.nsg13_lv_pmos[ids]
print @n.x1.x19.nsg13_lv_pmos[ids]
print @n.x1.x50.nsg13_lv_pmos[ids]
print @n.x1.x20.nsg13_lv_nmos[ids]
quit
.endc
